US04387101
In 60 ml of chloroform is dissolved 4.4 g of α-(3,4-diethoxyphenyl)-α-hydroxyacetonitrile and after addition of 1.5 ml of thionyl chloride, the mixture is heated under reflux for 15 minutes. After cooling, the reaction mixture is washed with a saturated aqueous solution of sodium hydrogen carbonate and water in the order mentioned, followed by drying over MgSO4. The solvent is then distilled off to give 4.8 g of a crude oil of α-chloro-α-(3,4-diethoxyphenyl)acetonitrile (quantitative yield). [If desired, this crude oil as it is can be used in the next reaction step.] The above crude oil is then purified by column chromatography (eluent: ether-n-hexane=1:5) and the resulting crystals are recrystallized from n-hexane. Colorless needles, m.p. 61°-62° C.

reactant | α-(3,4-diethoxyphenyl)-α-hydroxyacetonitrile | 4.4 g | C(C)OC=1C=C(C=CC1OCC)C(C#N)O | C12H15NO3
reactant | thionyl chloride | 1.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | α-chloro-α-(3,4-diethoxyphenyl)acetonitrile | quantitative yield | ClC(C#N)C1=CC(=C(C=C1)OCC)OCC | C12H14ClNO2
